US08013203B2
In a glove box, to a 40 mL I-Chem vial equipped with a stir bar and containing 2-iodo-4-bromo-5-methoxy-1-methoxymethoxybenzene (500 mg, 1.34 mmol) was added potassium acetate (395 mg, 4.02 mmol), bis(neopentylglycolato)diboron (363 mg, 1.61 mmol) and PdCl2(dppf) (33 mg, 0.040 mmol). The vial was sealed with a septum cap and then removed from the glove box. To the vial was then added DMSO (11 mL) and the resulting mixture was sealed under an atmosphere of argon and stirred at 80° C. for 13 h. The mixture was then allowed to cool to 23° C. and 1 M aq. NaOH was added (0.9 mL, 0.9 mmol). The mixture was stirred at 23° C. for 10 minutes and then diluted with saturated aq. NH4Cl (50 mL), water (50 mL), and Et2O (100 mL). The layers were separated and the organic phase was washed with water (3×100 mL), dried over MgSO4, and concentrated in vacuo. The residue was thrice dissolved in MeCN and concentrated in vacuo to afford a crude sample of 2-methoxymethoxy-4-methoxy-5-bromophenyl boronic acid as a light brown solid (343 mg): TLC (EtOAc) Rf=0.50, stained by KMnO4; 1H—NMR (400 MHz, CDCl3) δ 7.97 (s, 1H), 6.75 (s, 1H), 5.97 (s, 2H), 5.29 (s, 2H), 3.91 (s, 3H), 3.52 (s, 3H). To this crude boronic acid dissolved in benzene:DMSO (10:1) was added N-methyliminodiacetic acid (210 mg, 1.43 mmol). The flask was fitted with a Dean-Stark trap and a reflux condenser and the mixture was refluxed with stirring for 11 h followed by concentration in vacuo. The resulting crude product was adsorbed onto Florisil gel from a MeCN solution. The resulting powder was dry-loaded on top of a silica gel column slurry-packed with Et2O. The column was flushed with a copious volume of Et2O and then the product was eluted with Et2O:MeCN 1:1 to yield building block 14 as an off-white solid (365 mg, 68% yield over two steps).

reactant | 2-iodo-4-bromo-5-methoxy-1-methoxymethoxybenzene | 1.34 mmol, 500 mg | IC1=C(C=C(C(=C1)Br)OC)OCOC | C9H10BrIO3
reactant | potassium acetate | 4.02 mmol, 395 mg | C(C)(=O)[O-].[K+]
reactant | bis(neopentylglycolato)diboron | 1.61 mmol, 363 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
catalyst | PdCl2(dppf) | 0.040 mmol, 33 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methoxymethoxy-4-methoxy-5-bromophenyl boronic acid | 343 mg | COCOC1=C(C=C(C(=C1)OC)Br)B(O)O | C9H12BBrO5
